US07851473B2
(6) 4-[4-(3-Methylphenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl pyridin-3-ylcarbamate (229 mg, 0.848 mmol), 1-[4-(3-methylphenyl)-1,3-thiazol-2-yl]piperazine (200 mg, 0.771 mmol) and diisopropylethylamine (0.269 ml, 1.54 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 20 hours. Water was poured to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate), and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 103 mg (35.1%) of the desired product as a solid. mp 157-158° C.

reactant | 2,2,2-trichloroethyl pyridin-3-ylcarbamate | 0.848 mmol, 229 mg | N1=CC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 1-[4-(3-methylphenyl)-1,3-thiazol-2-yl]piperazine | 0.771 mmol, 200 mg | CC=1C=C(C=CC1)C=1N=C(SC1)N1CCNCC1 | C14H17N3S
reactant | diisopropylethylamine | 1.54 mmol, 0.269 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-[4-(3-Methylphenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperazine-1-carboxamide | 103 mg, 35.1% | CC=1C=C(C=CC1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC=1C=NC=CC1 | C20H21N5OS
